US04496560
A solution of 2-benzhydryloxycarbonyl-3-(1-bromo-2-oxoethyl)-7-t-butoxycarbonylamino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (a mixture of the bromoaldehyde epimers) (5.87 g) and thiobenzamide (1.5 g) in dry tetrahydrofuran (60 cc) is stirred at 20° C. for 1 hour 20 minutes, and thereafter there are added to the reaction mixture, cooled to 2° C., methanesulphonyl chloride (0.85 cc) followed, in 5 minutes, by triethylamine (5.6 cc). After having been stirred for 2 hours at 2° C., the reaction mixture is poured into a mixture of ethyl acetate (100 cc) and 1N hydrochloric acid (50 cc). The organic phase is washed with a saturated sodium bicarbonate solution (100 cc) and then with a saturated sodium chloride solution (100 cc), dried over magnesium sulphate and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 30° C. The residue is chromatographed on a column (height: 25 cm; diameter: 5 cm) of silica gel (0.04-0.06 mm), elution being carried out under a pressure of 0.4 bar (40 kPa) with an 80:20 (by volume) mixture of cyclohexane and ethyl acetate, and 125 cc fractions being collected. Fractions 17 to 22, containing the pure product, are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 30° C. 2-Benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-3-(2-phenyl-thiazol-5-yl)-5-thia-1-azabicyclo[4.2.0]oct-2-ene (1 g) is obtained in the form of a yellow froth.

reactant | 2-benzhydryloxycarbonyl-3-(1-bromo-2-oxoethyl)-7-t-butoxycarbonylamino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C(C=O)Br)NC(=O)OC(C)(C)C)=O | C27H27BrN2O6S
reactant | thiobenzamide | 1.5 g | C(C1=CC=CC=C1)(=S)N | C7H7NS
reactant | methanesulphonyl chloride | 0.85 cc | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | 1N, 50 cc | Cl | ClH
solvent | tetrahydrofuran | 60 cc | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 cc | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 5.6 cc | C(C)N(CC)CC | C6H15N
product | 2-Benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-3-(2-phenyl-thiazol-5-yl)-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 1 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C1=CN=C(S1)C1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C34H31N3O5S2
